US04866089
Preparation of 5,7-dimethoxy-2,2-dimethyl-4-chromanone
In a mixture of 40 ml of acetone and 40 ml of methyl ethyl ketone 4.2 g (20 millimoles) of 5,7-dihydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon to the solution 8.3 g (60 millimoles) of potassium carbonate and 5.3 g (3.9 ml, 42 millimoles) of dimethyl sulfate are added under stirring. The reaction mixture is refluxed for 8 hours, the suspension is cooled under stirring, the precipitated inorganic salt is filtered off, washed twice with 20 ml of acetone each and the solvent is removed in vacuo. The residue is taken up in 100 ml of chloroform, washed subsequently with 50 ml of 2% sodium hydroxide solution and 50 ml of water, dried over sodium sulfate and the chloroform is removed in vacuo. The residue is crystallized from 70% ethanol. Thus 4.4 g of the desired compound are obtained, yield 93.1%. Mp.: 104°-105° C.

reactant | methyl ethyl ketone | 20 millimoles, 40 ml, 4.2 g | C(C)C(=O)C | C4H8O
reactant | 5,7-dihydroxy-2,2-dimethyl-4-chromanone | OC1=C2C(CC(OC2=CC(=C1)O)(C)C)=O | C11H12O4
reactant | potassium carbonate | 60 millimoles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 42 millimoles, 3.9 ml, 5.3 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5,7-dimethoxy-2,2-dimethyl-4-chromanone | 4.4 g, yield 93.1% | COC1=C2C(CC(OC2=CC(=C1)OC)(C)C)=O | C13H16O4
